US04657705
A crude reaction mixture of N-acetyliminodiacetic acid was prepared from acetamide (5.90 g; 0.10 mol)) by the process described in French Pat. No. 2,523,576. This crude product was dissolved in a 20% aqueous hydrochloric acid solution and the resulting mixture was added to a 250 ml 3-necked flask equipped with an addition funnel and thermometer. Phosphorous acid (8.61 g; 0.105 mol) was added and the solution was heated to a temperature of 106° C.-107° C. When this temperature had been reached, formaldehyde (8.23 g of a 44% aqueous solution; 0.212 mole) was added to the mixture in the flask over a period of 30 minutes. After addition of formaldehyde was complete, the temperature was maintained at 106°-107° C. for an additional period of 3.5 hour. The reaction mixture was concentrated under reduced pressure and a precipitate formed. The product was collected by filtration to yield 14.4 g of N-phosphonomethyliminodiacetic acid (63% yield based on the starting amount of acetamide).

reactant | N-acetyliminodiacetic acid | C(C)(=O)N(CC(=O)O)CC(=O)O | C6H9NO5
reactant | acetamide | 0.10 mol, 5.90 g | C(C)(=O)N | C2H5NO
reactant | Phosphorous acid | 0.105 mol, 8.61 g | P(O)(O)O | H3O3P
reactant | formaldehyde | C=O | CH2O
solvent | hydrochloric acid | Cl | ClH
product | N-phosphonomethyliminodiacetic acid | 14.4 g, 63% yield | P(=O)(O)(O)CN(CC(=O)O)CC(=O)O | C5H10NO7P
